US06525036B2
A mixture of 3-cyclohexylmethyl-4-(4-isopropyl-2-oxooxazolidin-3-yl)-4-oxobutyric acid (2.00 g, 6.14 mmol) and HBTU (2.56 g, 6.76 mmol) in DMF (20 mL) were treated with morpholine (0.591 mL, 6.76 mmol) and N-methylmorpholine (0.811 mL, 7.37 mmol). The mixture was stirred overnight at ambient temperature and then partitioned between 4:1:2:3 ethyl acetate/THF/water/brine (100 mL total). The organic phase was washed with 1M hydrochloric acid, saturated aqueous sodium bicarbonate and brine (50 mL each), dried (MgSO4) filtered and concentrated to dryness. The residue dissolved in ethyl acetate/hexane and product was crystallized out to provide 2-cyclohexylmethyl-1-(4-isopropyl-2-oxooxazolidin-3-yl)-4-morpholin-4-ylbutane-1,4-dione (1.63 g). MS (M+1): 395.

reactant | 3-cyclohexylmethyl-4-(4-isopropyl-2-oxooxazolidin-3-yl)-4-oxobutyric acid | 6.14 mmol, 2.00 g | C1(CCCCC1)CC(CC(=O)O)C(=O)N1C(OCC1C(C)C)=O | C17H27NO5
reactant | HBTU | 6.76 mmol, 2.56 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | morpholine | 6.76 mmol, 0.591 mL | N1CCOCC1 | C4H9NO
reactant | N-methylmorpholine | 7.37 mmol, 0.811 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-cyclohexylmethyl-1-(4-isopropyl-2-oxooxazolidin-3-yl)-4-morpholin-4-ylbutane-1,4-dione | 1.63 g | C1(CCCCC1)CC(C(=O)N1C(OCC1C(C)C)=O)CC(=O)N1CCOCC1 | C21H34N2O5
